US04416890
2-Sulfamoyl-6-benzothiazolyl 3-Phenyl-2-propenoate
To a stirred solution of 6-hydroxy-2-benzothiazolesulfonamide (2.3 g., 0.01 mole), 4-dimethylaminopyridine (100 mg., catalyst) and triethylamine (1.4 ml., 0.01 mole) in dimethylformamide (20 ml.) is added cinnamoyl chloride (1.7 g., 0.01 mole). The reaction mixture is stirred at 25° C. for 2 hours and then poured into ice water and excess hydrochloric acid to give 3.5 g. of 2-sulfamoyl-6-benzothiazolyl 3-phenyl-2-propenoate which melts at 235°-235° C. after recrystallization from ethyl acetatehexane.

reactant | 6-hydroxy-2-benzothiazolesulfonamide | 0.01 mole, 2.3 g | OC1=CC2=C(N=C(S2)S(=O)(=O)N)C=C1 | C7H6N2O3S2
reactant | triethylamine | 0.01 mole, 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | cinnamoyl chloride | 0.01 mole, 1.7 g | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
reactant | hydrochloric acid | Cl | ClH
catalyst | 4-dimethylaminopyridine | 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-Sulfamoyl-6-benzothiazolyl 3-Phenyl-2-propenoate | C1(=CC=CC=C1)C=CC(=O)OC1=CC2=C(N=C(S2)S(N)(=O)=O)C=C1 | C16H12N2O4S2
